US05036090
2-(p-nitrocinnamyl)-2-methyl-1,3-dioxolane (code number 230111)
To 62.8 mmol of LDA in 226.4 ml of THF, is added dropwise at 0° C. a solution of 28.8 g (62.2 mmol) of (2-methyl-dioxolane-2-yl-2-ethyl)triphenylphosphonium bromide in 60 ml of DMSO. After 1 h at 0° C., 7.8 g (51.6 mmol) of p-nitrobenzaldehyde dissolved in 40 ml of THF are added. The reaction medium is hydrolyzed with a NH4Cl saturated solution and is extracted with ethyl ether. The organic phase is dried over Na2SO4 and concentrated. After purification by flash chromatography (silica, eluent: heptane: 70; ethyl acetate: 30), the product is obtained with a 48% yield.

reactant | LDA | 62.8 mmol | [Li+].CC(C)[N-]C(C)C
reactant | (2-methyl-dioxolane-2-yl-2-ethyl)triphenylphosphonium bromide | 62.2 mmol, 28.8 g | [Br-].CC1(OCCO1)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | p-nitrobenzaldehyde | 51.6 mmol, 7.8 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 226.4 ml | C1CCOC1 | C4H8O
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(p-nitrocinnamyl)-2-methyl-1,3-dioxolane | 48% yield | [N+](=O)([O-])C1=CC=C(C=CCC2(OCCO2)C)C=C1 | C13H15NO4
